US06900354B2
b) 3-[4-(4-Fluoro-benzyloxy)-phenyl]-N-methyl-acrylamide
The title compound is prepared in analogy to example 12 b) from 3-[4-(4-fluoro-benzyloxy)-phenyl]-acrylic acid and methylamine. Yield=21%. Colorless solid. MS: m/e=286.0 (M++H).

reactant | 3-[4-(4-fluoro-benzyloxy)-phenyl]-acrylic acid | FC1=CC=C(COC2=CC=C(C=C2)C=CC(=O)O)C=C1 | C16H13FO3
reactant | methylamine | CN | CH5N
product | 3-[4-(4-Fluoro-benzyloxy)-phenyl]-N-methyl-acrylamide | Yield=21% | FC1=CC=C(COC2=CC=C(C=C2)C=CC(=O)NC)C=C1 | C17H16FNO2
